US06344452B1
Preparation of (±)-1-tert-butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H -1,5-benzodiazepine
To a solution of (±)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (3.35 g) in dimethyl sulfoxide (30 mL), bromomethyl tert-butyl ketone (2 g), potassium carbonate (1.55 g), potassium iodide (125mg) and tetra (n-butyl) ammonium bromide (120mg) were added, followed by stirring at room temperature for 1 hour. The reaction mixture was poured into ice water, followed by extraction with ethyl acetate. The organic layer was washed with brine and then dried over an hydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel colomn chromatography (ethyl acetate: n-hexane=1:3), whereby the title compound (2.3 g) was obtained.

reactant | (±)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 3.35 g | O=C1C(CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C | C20H29N3O3
reactant | bromomethyl tert-butyl ketone | 2 g | C(C)(C)(C)C(=O)CBr | C6H11BrO
reactant | potassium carbonate | 1.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 125mg | [I-].[K+]
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
catalyst | tetra (n-butyl) ammonium bromide | 120mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (±)-1-tert-butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H -1,5-benzodiazepine | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C)=O | C26H39N3O4
